US08097613B2
A solution of 2-methyl-malonic acid diethyl ester (20.0 g, 115 mmol) in tetrahydrofuran (50 mL) was added dropwise over 15 min to a suspension of sodium hydride (2.89 g, 120 mmol) in tetrahydrofuran (100 mL) at 0° C. The clear reaction mixture was stirred for 5 min at 0° C., then a solution of 1-bromo-3-methyl-but-2-ene (18.8 g, 126 mmol) in tetrahydrofuran (30 mL) was added over 10 min. The reaction mixture was allowed to warm to 25° C. and was stirred at that temperature for 22 h. After quenching with 1.0 M aqueous hydrochloric acid solution (20 mL), the mixture was partitioned between 1.0 M aqueous hydrochloric acid solution (150 mL) and ethyl acetate (2×150 mL). The organic layers were dried over sodium sulfate and were concentrated in vacuo. The residue was purified by flash chromatography (self packed glass column, gradient elution: 5-20% ethyl acetate in hexanes) to afford rac-2-methyl-2-(3-methyl-but-2-enyl)-malonic acid diethyl ester (22.15 g, 91.4 mmol, 79%) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ: 1.25 (6H, t, J=7.0 Hz), 1.37 (3H, s), 1.62 (3H, s), 1.69 (3H, s), 2.57 (2H, d, J=7.0 Hz), 4.17 (4H, q, J=7.0 Hz), 4.99-5.03 (1H, m).

reactant | 2-methyl-malonic acid diethyl ester | 115 mmol, 20.0 g | C(C)OC(C(C(=O)OCC)C)=O | C8H14O4
reactant | sodium hydride | 120 mmol, 2.89 g | [H-].[Na+]
reactant | 1-bromo-3-methyl-but-2-ene | 126 mmol, 18.8 g | BrCC=C(C)C | C5H9Br
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | rac-2-methyl-2-(3-methyl-but-2-enyl)-malonic acid diethyl ester | 91.4 mmol, 22.15 g, 79% | C(C)OC(C(C(=O)OCC)(CC=C(C)C)C)=O | C13H22O4
